US04000269
Preparation of S-(p-Bromo-α,α-dimethylbenzylthio)methyl O,O-Dimethyl Phosphordithioate
Using p-bromo-α,α-dimethyl-α-toluenethiol prepared from p-bromo-α,α-dimethylbenzyl alcohol by the procedure of Example 1, and using potassium O,O-dimethyl phosphorodithioate in place of potassium O,O-diethyl phosphorodithioate, the procedure of Example 6 gives the desired product as a colorless oil.

reactant | p-bromo-α,α-dimethyl-α-toluenethiol | BrC1=CC=C(C=C1)C(S)(C)C | C9H11BrS
reactant | p-bromo-α,α-dimethylbenzyl alcohol | BrC1=CC=C(C(C)(C)O)C=C1 | C9H11BrO
reactant | potassium O,O-dimethyl phosphorodithioate | P(OC)(OC)(=S)[S-].[K+]
product | S-(p-Bromo-α,α-dimethylbenzylthio)methyl O,O-Dimethyl Phosphordithioate | P(OC)(OC)(=S)SCSC(C1=CC=C(C=C1)Br)(C)C | C12H18BrO2PS3
